US08067448B2
(R)-4-(3-(tert-butyldimethylsilyloxy)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile
To a 25 mL round bottom flask equipped with a magnetic stir bar and septum was added triphenylphosphine (polymer bound, 3.0 mmol/g loading) (1 g, 3 mmol) under an atmosphere of nitrogen. To this was added methylene chloride (60 mL) followed by addition of solid iodine (688 mg, 2.71 mmol). This was allowed to stir at room temperature for a period of 10 min followed by slow addition of triethylamine (1 mL, 7.24 mmol). (R)—N′-(4-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)-4-cyanobenzohydrazide (950 mg, 1.81 mmol) was taken up in methylene chloride (15 mL) and slowly added to the stirred reaction mixture. After a period of 30 min, the solid polymer was filtered out and washed with additional methylene chloride (50 mL). The organic filtrate was then washed with 10% sodium thiosulfate/water (2×25 mL), brine (1×30 mL) and dried (Na2SO4). The solution was then filtered and concentrated under reduced to reveal a brown solid (1.03 g). Purification by flash column chromatography [EtOAc-hexanes (1:2) as eluent] afforded the title compound as a white crystalline solid (900 mg, 98%). 1H NMR (400 MHz, Acetone-d6, δ in ppm) 8.19 (d, J=9 Hz, 2H), 8.00 (d, J=9 Hz, 2H), 7.53 (d, J=9 Hz, 1H), 6.98 (d, J=9 Hz, 1H), 6.05 (d, J=9 Hz, 1H), 5.4 (m, 1H), 4.00-3.95 (m, 1H), 3.94-3.89 (m, 1H), 2.57-2.40 (m, 2H), 2.38 (s, 3H), 0.88 (s, 9H), 0.04 (s, 3H) and 0.00 (s, 3H).

reactant | triphenylphosphine | 3 mmol, 1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 2.71 mmol, 688 mg | II | I2
reactant | triethylamine | 7.24 mmol, 1 mL | C(C)N(CC)CC | C6H15N
reactant | (R)—N′-(4-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)-4-cyanobenzohydrazide | 1.81 mmol, 950 mg | [Si](C)(C)(C(C)(C)C)OCC[C@H](C(=O)NNC(C1=CC=C(C=C1)C#N)=O)NC1=C(C(=C(C=C1)C#N)Cl)C | C26H32ClN5O3Si
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | (R)-4-(3-(tert-butyldimethylsilyloxy)-1-(5-(4-cyanophenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile | 900 mg, 98% | [Si](C)(C)(C(C)(C)C)OCC[C@H](C=1OC(=NN1)C1=CC=C(C=C1)C#N)NC1=C(C(=C(C#N)C=C1)Cl)C | C26H30ClN5O2Si
